US04466962
Preparation of 4,5-Dichloro-3-hydroxy-1-methylpyrazole
A mixture of 74 gms (0.391 mol) methyl-2,3,3-trichloroacrylate, 18 gms (21 ml) methyl hydrazine and 54 gms (0.391 mol) potassium carbonate in 500 ml toluene was stirred at room temperature for one day, and then heated to reflux for one day. An additional 5 gms methyl hydrazine was then added and the reaction mixture was stirred an additional day at reflux. The reaction mixture was then acidified with dilute hydrochloric acid. At this point, there was a large amount of solid which did not dissolve in either phase. The solids were removed by filtration, resuspended in water and the suspension was filtered again. The solids were air-dried overnight, yielding 60.9 gms of product, melting point 212°-216° C.

reactant | methyl-2,3,3-trichloroacrylate | 0.391 mol, 74 gms | COC(C(=C(Cl)Cl)Cl)=O | C4H3Cl3O2
reactant | methyl hydrazine | 21 ml, 18 gms | CNN | CH6N2
reactant | potassium carbonate | 0.391 mol, 54 gms | C([O-])([O-])=O.[K+].[K+]
reactant | methyl hydrazine | 5 gms | CNN | CH6N2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-Dichloro-3-hydroxy-1-methylpyrazole | 60.9 gms | ClC=1C(=NN(C1Cl)C)O | C4H4Cl2N2O
